US08293768B2
Synthesis of ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate
To a solution of ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate (0.17 g, 0.68 mmol) and potassium carbonate (0.14 g, 1.03 mmol) in acetone (10 mL) was added 4-(trifluoromethyl)benzyl bromide (0.21 g, 0.89 mmol). The reaction mixture was heated to reflux for 3 hours. The solvent was removed in vacuo and the residue was washed with water and hexanes to afford the title compound in 60% yield (0.17 g): 1H NMR (300 MHz, CDCl3) δ 8.29 (s, 1H), 7.61 (d, J=8.3 Hz, 2H), 7.50 (d, J=8.3 Hz, 2H), 5.07 (s, 2H), 4.32 (q, J=7.1 Hz, 2H), 2.67 (s, 3H), 1.35 (t, J=7.1 Hz, 3H); MS (ES+) m/z 413.2 (M+1).

reactant | ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | 0.68 mmol, 0.17 g | CC=1N=C(SC1C(=O)OCC)N1C=NNC1=O | C9H10N4O3S
reactant | potassium carbonate | 1.03 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(trifluoromethyl)benzyl bromide | 0.89 mmol, 0.21 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | 60% yield | CC=1N=C(SC1C(=O)OCC)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N4O3S
